2120-10-27 07:01:00 Physician Resident Progress Note
Chief Complaint: pleural, pericardial effusions
   24 Hour Events:
   0700-0800
   O2sat 80s despite high-flow neb 95%FiO2 +6LNC, did not improve with NRB
   Intubated for hypoxemic respiratory failure
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsPenicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-27**] 12:01 AM
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-10-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 82 (74 - 84) bpm
   BP: 127/61(77) {94/45(56) - 137/69(86)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                    209 mL
                                                                  1,532 mL
   PO:
           TF:
   IVF:
                                                                     60 mL
                                                                  1,170 mL
   Blood products:
                                                                    149 mL
                                                                    363 mL
   Total out:
                                                                     70 mL
                                                                    215 mL
   Urine:
                                                                     70 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    139 mL
                                                                  1,317 mL
   Respiratory support
   O2 Delivery Device: High flow neb 15L 95% FiO2 + 6L NC
   SpO2: 92%
   ABG: 7.35/60/73/31/4 (on 80%FiO2)
   PaO2 / FiO2: 77
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left lung field, right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   472 K/uL
   7.7 g/dL
   85 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.9 mEq/L
   26 mg/dL
   91 mEq/L
   130 mEq/L
   24.5 %
   22.4 K/uL
        [image002.jpg]
                            [**2120-10-26**]  09:58 PM
                            [**2120-10-26**]  10:53 PM
                            [**2120-10-26**]  11:00 PM
                             [**2120-10-27**]  03:58 AM
   WBC
   25.4
   22.4
   Hct
   26.9
   24.5
   Plt
   447
   472
   Cr
   1.9
   1.8
   TCO2
   35
   Glucose
   68
   85
   Other labs: PT / PTT / INR:16.5/37.5/1.5, Ca++:7.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: vanco 22.7 (0400)
   Imaging: [**10-26**] portable AP CXR
   1. Interval complete opacification of the left hemithorax without
   evidence of
   significant mediastinal shift, most likely reflects pleural effusion
   with
   atelectasis/collapse.
   2. Small-to-moderate right pleural effusion.
   Microbiology: [**10-26**] blood, urine cx NGTD
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis left-sided pleural effusion s/p thoracentesis
   readmitted with hypoxemic respiratory failure in the setting of
   recurrent left pleural effusion with left lung collapse, and recurrent
   pericardial effusion.
   .
   #Hypoxemic respiratory failure - attributable to large left-sided
   effusion with complete left lung collapse
   -ABG on current vent settings
   -daily CXR
   -wean vent support after OR [**10-28**]
   .
   #Hypotension - concerning for tamponade physiology given the recent
   history but ED bedside echo findings reassuring and now normotensive;
   no dynamic EKG changes to suggest ischemia
   -aggressive IVF if HoTN recurs
   -obtain TTE
   -cont broad spectrum ABX for nosocomial PNA cov'g (vanc/zosyn) given
   leukocytosis and frequent healthcare exposures
   -redose vanco if PM level 15-20
   -blood, urine, sputum Cx pending
   -c. diff toxin pending
   -hold metoprolol
   .
   #Pleural effusion
   -appreciate thoracic surgery involvement
   -thoracentesis, pigtail catheter placement now that INR<2
   -autoantibody testing for rheum workup given CRP>300 (although more
   likely to be malignancy than new onset autoimmune disease in 85 y/o)
   -f/u final CT read
   .
   #Pericardial effusion
 no clinical evidence of tamponade at present
   -TTE as above
   -plan for pericardial window [**10-28**], would favor obtaining tissue to
   exclude malignancy, TB
   .
   #Supratherapeutic INR
 corrected to 1.5 with FFP, vitamin K
   -cont hold coumadin
   .
   #Acute on chronic iron-deficiency anemia - Hct stable
   -active T&S
   -monitor Hct daily, transfuse for Hct<21%
   -guaiac stools
   -consider iron supplementation
   .
   #Acute renal failure - likely prerenal azotemia given UNa<10 but must
   be cautious about fluid resuscitation in the setting of
   pericardial/pleural effusions
   -cautious IVF
   -renally dose meds
   .
   #Hyponatremia
   -cont NaCl
   -urine osm
   .
   #Atrial fibrillation
   -hold coumadin, aspirin
   -hold amiodarone given propensity to increase INR
   .
   #UTI - pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]
   -ABX, as above
   -f/u UCx
   .
   #CAD
   -hold ASA, BB in the acute setting
   .
   #Hypothyroidism
   -cont levoxyl
   .
   # FEN: NPO
   .
   # PPX: PPI, pneumoboots
   .
   # ACCESS: PIV x 2
   .
   # CODE: FULL (confirmed with patient and family [**10-26**])
   .
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition: NPO
   Lines:
   18 Gauge - [**2120-10-26**] 09:15 PM
   22 Gauge - [**2120-10-26**] 09:16 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Code status: Full code
   Disposition: ICU

2120-10-28 07:30:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   Intubated for hypoxemic respiratory failure
   Chest tube placed by Thoracics
   Dropped blood pressure with bolused sedation, required peripheral neo
   TTE showed slightly/minimally larger effusion without evidence of
   hemodynamic compromise.
   LIJ placed.
   Cannot wean off neo
 INVASIVE VENTILATION - START [**2120-10-27**] 08:36 AM
 CHEST TUBE PLACED - At [**2120-10-27**] 11:13 AM
 ARTERIAL LINE - START [**2120-10-27**] 12:43 PM
 MULTI LUMEN - START [**2120-10-27**] 06:45 PM
 BLOOD CULTURED - At [**2120-10-27**] 08:09 PM
 FEVER - 102.5
F - [**2120-10-27**] 08:00 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-28**] 04:04 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2120-10-28**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.1
C (97
   HR: 58 (58 - 83) bpm
   BP: 122/58(81) {82/49(59) - 133/66(92)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 18 (5 - 18)mmHg
   Total In:
                                                                  6,548 mL
                                                                    747 mL
   PO:
   TF:
   IVF:
                                                                  6,185 mL
                                                                    401 mL
   Blood products:
                                                                    363 mL
                                                                    321 mL
   Total out:
                                                                  1,005 mL
                                                                    560 mL
   Urine:
                                                                    630 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,543 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 2,067 (2,067 - 2,067) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/41/99.[**Numeric Identifier 299**]/26/1
   Ve: 4.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   497 K/uL
   6.7 g/dL
   74 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   22 mg/dL
   102 mEq/L
   134 mEq/L
   20.6 %
   14.3 K/uL
        [image002.jpg]
   Echo [**10-27**]:
   The right ventricular cavity is mildly dilated . Left ventricular
   cavity size is normal. There is a small, primarily anterior partially
   echofilled space c/w an organized pericardial effusion.. No right
   ventricular diastolic collapse is seen.
   Compared with the prior study (images reviewed) of [**2120-10-24**], the
   effusion is slightly/minimally larger but without evidence of
   hemodynamic compromise.
   Cultures:
   11/2 Blood culture negative
   [**10-27**] Blood culture negative
   [**10-27**] Pleural fluid negative to date
   [**10-27**] Urine culture NGTD
   [**10-27**] C diff negative
   [**10-26**] Blood cultures x2 negative, Urine culture negative
                            [**2120-10-26**]  11:00 PM
                             [**2120-10-27**]  03:58 AM
                             [**2120-10-27**]  09:42 AM
                             [**2120-10-27**]  03:30 PM
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
   WBC
   25.4
   22.4
   15.1
   14.3
   Hct
   26.9
   24.5
   21.7
   21.0
   20.6
   Plt
   447
   472
   499
   497
   Cr
   1.8
   1.5
   1.6
   TropT
   0.01
   TCO2
   31
   27
   31
   26
   28
   Glucose
   85
   89
   74
   Other labs: PT / PTT / INR:15.4/31.6/1.3, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:1.0 mmol/L, Ca++:6.5 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis left-sided pleural effusion s/p thoracentesis
   readmitted with hypoxemic respiratory failure in the setting of
   recurrent left pleural effusion with left lung collapse, and recurrent
   pericardial effusion.
   .
   #Hypoxemic respiratory failure - attributable to large left-sided
   effusion with complete left lung collapse
   -ABG on current vent settings
   -daily CXR
   -wean vent support after OR [**10-28**]
   .
   #Hypotension - concerning for tamponade physiology given the recent
   history but ED bedside echo findings reassuring and now normotensive;
   no dynamic EKG changes to suggest ischemia
   -aggressive IVF if HoTN recurs
   -obtain TTE
   -cont broad spectrum ABX for nosocomial PNA cov'g (vanc/zosyn) given
   leukocytosis and frequent healthcare exposures
   -redose vanco if PM level 15-20
   -blood, urine, sputum Cx pending
   -c. diff toxin pending
   -hold metoprolol
   .
   #Pleural effusion
   -appreciate thoracic surgery involvement
   -thoracentesis, pigtail catheter placement now that INR<2
   -autoantibody testing for rheum workup given CRP>300 (although more
   likely to be malignancy than new onset autoimmune disease in 85 y/o)
   -f/u final CT read
   .
   #Pericardial effusion
 no clinical evidence of tamponade at present
   -TTE as above
   -plan for pericardial window [**10-28**], would favor obtaining tissue to
   exclude malignancy, TB
   .
   #Supratherapeutic INR
 corrected to 1.5 with FFP, vitamin K
   -cont hold coumadin
   .
   #Acute on chronic iron-deficiency anemia - Hct stable
   -active T&S
   -monitor Hct daily, transfuse for Hct<21%
   -guaiac stools
   -consider iron supplementation
   .
   #Acute renal failure - likely prerenal azotemia given UNa<10 but must
   be cautious about fluid resuscitation in the setting of
   pericardial/pleural effusions
   -cautious IVF
   -renally dose meds
   .
   #Hyponatremia
   -cont NaCl
   -urine osm
   .
   #Atrial fibrillation
   -hold coumadin, aspirin
   -hold amiodarone given propensity to increase INR
   .
   #UTI - pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]
   -ABX, as above
   -f/u UCx
   .
   #CAD
   -hold ASA, BB in the acute setting
   .
   #Hypothyroidism
   -cont levoxyl
   .
   # FEN: NPO
   .
   # PPX: PPI, pneumoboots
   .
   # ACCESS: PIV x 2
   .
   # CODE: FULL (confirmed with patient and family [**10-26**])
   .
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-26**] 09:15 PM
   22 Gauge - [**2120-10-26**] 09:16 PM
   Arterial Line - [**2120-10-27**] 12:43 PM
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-28 09:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - S/p intubation on rounds yesterday
   - On pressors since intubation
   - CT placed per CT surgery
   - LIJ placed
   - A. line placed
   - Tm 102.5
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-28**] 04:04 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2120-10-28**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-28**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.1
C (96.9
   HR: 56 (56 - 73) bpm
   BP: 102/51(69) {81/40(55) - 133/66(92)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
   CVP: 9 (5 - 18)mmHg
   Total In:
                                                                  6,548 mL
                                                                    859 mL
   PO:
   TF:
   IVF:
                                                                  6,185 mL
                                                                    484 mL
   Blood products:
                                                                    363 mL
                                                                    350 mL
   Total out:
                                                                  1,005 mL
                                                                    655 mL
   Urine:
                                                                    630 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,543 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/41/99.[**Numeric Identifier 299**]/26/1
   Ve: 4.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   497 K/uL
   74 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   22 mg/dL
   102 mEq/L
   134 mEq/L
   20.6 %
   14.3 K/uL
        [image002.jpg]
                            [**2120-10-26**]  11:00 PM
                             [**2120-10-27**]  03:58 AM
                             [**2120-10-27**]  09:42 AM
                             [**2120-10-27**]  03:30 PM
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
   WBC
   25.4
   22.4
   15.1
   14.3
   Hct
   26.9
   24.5
   21.7
   21.0
   20.6
   Plt
   447
   472
   499
   497
   Cr
   1.8
   1.5
   1.6
   TropT
   0.01
   TCO2
   31
   27
   31
   26
   28
   Glucose
   85
   89
   74
   Other labs: PT / PTT / INR:15.4/31.6/1.3, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:1.0 mmol/L, Ca++:6.5 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - Worsening effusion on R and enlarged cardiac sillouete
   TTE - Increased effusion, no HD compromise.
   Microbiology: Negative to date.
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemia
 Likely [**1-29**] pleural effusions.  Elevated WBC count could
   indicate PNA obscured by effusions/atelectasis, but no symptoms to
   support this.  Now intubated.
   - Plan for drainage/CT per thoracics today
   - Will remain intubated until after definitive surgery tomorrow
   - Vent settings as appropriate.  No a line for now.
   #Hypotension
 Initially resolved, but then worsened after intubation
   requiring neo.  TTE without evidence of  tamponade. Unclear etiology at
   this time, but temporally related to sedation.
   - Cycle cardiac enzymes, EKG
   - Continue vanc/zosyn
   - Place CL and titrate IVF boluses to CVP of [**8-7**]
   - Hold metoprolol
   #Leukocytosis
 Unclear etiology.  Dirty UA (pan-[**Last Name (un) 46**] klebsiella &
   pseudomonas from UCx [**10-12**]) and unable to visualize lung fields given
   effusions.
    - Cont broad spectrum ABX for nosocomial PNA cov'g (vanc/zosyn) given
   leukocytosis and frequent healthcare exposures
   -  Blood, urine, sputum Cx
   -  C. diff toxin
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.
   - Appreciate thoracic surgery consult
   - Pigtail catheter placement today
   - Will send fluid for chemistries, cultures (including AFB), and
   cytology.
   - Plan for VATs with pleurodesis tomorrow.  Would appreciate pleural
   biopsy at same time.
   #Pericardial effusion
 Unclear etiology as above.
   - TTE
   - Will likely get pericardial window tomorrow per thoracics. Would
   appreciate pericardial biopsy as well.
   - Follow for any signs of tamponade
   #Supratherapeutic INR
   - Vitamin K, FFP
   - Hold coumadin
   #Acute renal failure - likely prerenal azotemia given UNa<10. Will
   follow with volume resuscitation.
   #Atrial fibrillation
   - Hold coumadin, aspirin
   - Cont amiodarone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-10-26**] 09:15 PM
   22 Gauge - [**2120-10-26**] 09:16 PM
   Arterial Line - [**2120-10-27**] 12:43 PM
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-10-29 07:05:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-10-28**] 11:00 AM
   Echo:  very small anterior pericardial effusion with prominent
   epicardial fat pad. There are no echocardiographic signs of tamponade.
   Compared with the prior study the pericardial effusion is smaller.
 BRONCHOSCOPY - At [**2120-10-28**] 12:01 PM
   Bronch: Unremarkable to subsegmental level. Tracheomalacia. No
   obstructing lesions.
 THORACENTESIS - At [**2120-10-28**] 03:00 PM
   IP placed R pigtail catheter: immediately put out 650cc turbid, serous
   fluid.
   Weaned off neo, fentanyl, and versed on [**10-28**]
   Restarted amiodarone
   Thoracics: may go to OR later this week for possible L VATS pericardial
   window and talc pleurodesis when clinical picture improves
   PM CXR: showed small amount of air in the mediastinum -f/u on AM CXR
   -if worsening consider fistula
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-10-28**] 12:00 PM
   Midazolam (Versed) - [**2120-10-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 73 (56 - 79) bpm
   BP: 141/68(96) {81/40(55) - 141/68(96)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 12 (6 - 26)mmHg
   Total In:
                                                                  2,063 mL
                                                                    320 mL
   PO:
   TF:
   IVF:
                                                                  1,688 mL
                                                                    320 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,780 mL
                                                                    355 mL
   Urine:
                                                                    730 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                    660 mL
                                                                    130 mL
   Balance:
                                                                    283 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 4.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   459 K/uL
   7.8 g/dL
   63 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   23.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-10-27**]  09:42 AM
                             [**2120-10-27**]  03:30 PM
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
   WBC
   15.1
   14.3
   12.0
   Hct
   21.7
   21.0
   20.6
   25.3
   23.8
   Plt
   499
   497
   459
   Cr
   1.5
   1.6
   1.5
   TropT
   0.01
   TCO2
   31
   27
   31
   26
   28
   Glucose
   89
   74
   63
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis left-sided pleural effusion s/p thoracentesis
   readmitted with hypoxemic respiratory failure in the setting of
   recurrent left pleural effusion with left lung collapse, and recurrent
   pericardial effusion.
   .
   #Hypoxemic respiratory failure - attributable to large left-sided
   effusion with complete left lung collapse
   -change to pressure support today
   -consider extubation if not going to OR today
   -d/c sedation
   -daily CXR
   -goal I/Os even -20mg IV lasix x1 this AM
   .
   #Hypotension - concerning for tamponade physiology given the recent
   history but ED bedside echo findings reassuring and now normotensive;
   no dynamic EKG changes to suggest ischemia
   -aggressive IVF if HoTN recurs
   -cont broad spectrum ABX for nosocomial PNA cov'g (vanc/zosyn
day 2)
   given leukocytosis and frequent healthcare exposures
   -redose vanco if PM level 15-20
   -blood, urine, sputum Cx pending
   -c. diff toxin pending
   -holding metoprolol [**1-29**] hypotension
   .
   #Pleural effusion
   -f/u thoracics recs
   -bronch prior to extubation today
   .
   #Pericardial effusion
 no clinical evidence of tamponade at present
   -speak with thoracics regarding plan for pericardial window
   -f/u fluid cultures
   .
   .
   #Acute on chronic iron-deficiency anemia - Hct stable
   -active T&S
   -monitor Hct daily, transfuse for Hct<21%
   -guaiac stools
   -consider iron supplementation
   .
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially.
   -resend urine lytes
   -renally dose meds
   .
   #Hyponatremia: resolved
   .
   #Atrial fibrillation
   -hold coumadin, aspirin
   -restart amiodarone
   .
   #UTI - pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]
   -ABX, as above
   -f/u UCx
   .
   #CAD
   -hold ASA, BB in the acute setting
   .
   #Hypothyroidism
   -cont levoxyl
   .
   # FEN: NPO
   .
   # PPX: PPI, pneumoboots
   .
   # ACCESS: PIV x 2
   .
   # CODE: FULL (confirmed with patient and family [**10-26**])
   .
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-10-27**] 12:43 PM
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-29 10:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - R pigtail placedby IR
   - Weaned off sedation and pressors
   - TTE with effusion smaller than previous, no tamponade
   - Small pneumomediastinal air
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-10-28**] 12:00 PM
   Midazolam (Versed) - [**2120-10-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-29**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 74 (63 - 79) bpm
   BP: 129/84(103) {90/45(56) - 143/90(114)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 9 (6 - 26)mmHg
   Total In:
                                                                  2,063 mL
                                                                    352 mL
   PO:
   TF:
   IVF:
                                                                  1,688 mL
                                                                    352 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,780 mL
                                                                    415 mL
   Urine:
                                                                    730 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
                                                                    660 mL
                                                                    130 mL
   Balance:
                                                                    283 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 341 (341 - 341) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 20 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/34/124/21/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   459 K/uL
   63 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   23.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-10-27**]  03:30 PM
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
   WBC
   15.1
   14.3
   12.0
   Hct
   21.7
   21.0
   20.6
   25.3
   23.8
   Plt
   499
   497
   459
   Cr
   1.5
   1.6
   1.5
   TropT
   0.01
   TCO2
   27
   31
   26
   28
   21
   Glucose
   89
   74
   63
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR - Improved pneumomediastinum, stable lung fields.
   Microbiology: No growth on any cultures.
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p L
   CT.  Elevated WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.
   - Plan was for VATs pleurodesis per CT surgery today, but now hesitant
   to take her given hypotension
   - If not going to OR, will extubate today
   - Place on PS for now
   - Bronchoscopy  at bedside: Some TBM, but no endobronchial lesion,
   which had been of concern due to degree of lung collapse relative to
   size of pleural effusion
   #Hypotension
 Initially resolved, but then worsened after intubation
   requiring neo.  TTE without evidence of  tamponade. Unclear etiology at
   this time, but likely related to sedation.
   - Hold metoprolol
   - Wean off sedation and then pressors as tolerated
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.  Dirty UA
   (pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]).  WBC improved with
   abx.
   - Cont vanc/zosyn
   - F/u cultures / C. diff
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.
   - Appreciate thoracic surgery consult
   - S/p pigtail catheter placement
   - F/u  fluid chemistries, cultures (including AFB), and cytology.
   - Plan for VATs with pleurodesis today.  Would appreciate pleural
   biopsy at same time.
   #Pericardial effusion
 Unclear etiology as above.
   - Formal TTE today
   - [**Month (only) 8**] get pericardial window per thoracics. Would appreciate
   pericardial biopsy as well.
   - Follow for any signs of tamponade
   #Acute renal failure - likely prerenal azotemia given UNa<10. Will
   follow with volume resuscitation.
   - Send urine lytes
   #Atrial fibrillation
   - Hold coumadin, aspirin
   - Cont amiodarone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-10-27**] 12:43 PM
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2120-10-30 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-10-29**] 10:19 AM
 ARTERIAL LINE - STOP [**2120-10-29**] 04:11 PM
   Extubated successfully
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-10-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-30**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 78 (73 - 98) bpm
   BP: 115/44(62) {81/44(55) - 126/58(73)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 8 (5 - 11)mmHg
   Total In:
                                                                    810 mL
                                                                    828 mL
   PO:
                                                                    120 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    440 mL
   Urine:
                                                                    495 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
                                                                    330 mL
                                                                    210 mL
   Balance:
                                                                   -240 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 341 (341 - 341) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/34/124/22/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   446 K/uL
   7.8 g/dL
   61 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   19 mg/dL
   104 mEq/L
   134 mEq/L
   24.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
   WBC
   14.3
   12.0
   10.4
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   Plt
   497
   459
   446
   Cr
   1.6
   1.5
   1.5
   TCO2
   27
   31
   26
   28
   21
   Glucose
   74
   63
   61
   Other labs: PT / PTT / INR:21.8/33.8/2.0, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 PLEURAL EFFUSION, ACUTE
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p b/l
   CT.  Elevated WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.  Extubated [**2120-10-30**]
   - Wean O2 as tolerated
   - Plan to diurese when pressure will ltolerate
   - OOB to chair, IS, PT
   - Plan was for VATs/pleurodesis per CT surgery, but now unclear - Dr.
   [**Last Name (STitle) 876**] will talk to Dr. [**First Name (STitle) **] & possibly Dr. [**Last Name (STitle) 1038**]
   #Hypotension
 Now resolved off sedation.
   - Holding metoprolol and diuresis given borderline BPs
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.  Dirty UA
   (pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]).  WBC improved with
   abx.
   - Cont vanc/zosyn x 8 days
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.  S/pleural protein ratio>0.5
   (exudate)
   - Appreciate thoracic surgery consult
   - F/u fluid chemistries, cultures (including AFB), and cytology.
   - if VATs with pleurodesis later in week,  would appreciate pleural
   biopsy at same time.
   - flow cytometry sent; may need to send more for conventional cytometry
   as prior sample only 5cc
   .
   #Pericardial effusion
 ECHO yesterday shows decreased effusion
   - cont to monitor
   #Acute on chronic iron-deficiency anemia - Hct stable
   -monitor Hct daily, transfuse for Hct<21%
   -guaiac stools
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially,
   Cr stable at 1.5
   -trend Cr daily
   #Atrial fibrillation
   -hold coumadin, aspirin  for now
   -cont amiodarone
   #CAD
   -hold ASA, BB in the acute setting
   - will consider restarting BB if blood pressures tolerate
   #Hypothyroidism
   -cont levoxyl
   # FEN: NPO for now, will give PO trial later today
   # PPX: PPI, pneumoboot
   # ACCESS: PIV x 2
   # CODE: FULL (confirmed with patient and family [**10-26**])
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   # DISPO: ICU
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: pneumoboot
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: o2 req too high for floor

2120-10-30 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Extubated on rounds yesterday
   - A. line removed
   - L CT 140 since MN
   - R pigtail 210 since MN
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-10-30**] 09:07 AM
   Other medications:
   Synthroid, Simvastatin, NaCL 1gm, zosyn, Protonix, Amiodarone 200,
   Tylenol TID, Dilaudid prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-30**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 75 (73 - 98) bpm
   BP: 115/51(67) {81/44(55) - 126/62(79)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                    810 mL
                                                                    963 mL
   PO:
                                                                    120 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    560 mL
   Urine:
                                                                    495 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
                                                                    330 mL
                                                                    210 mL
   Balance:
                                                                   -240 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   446 K/uL
   61 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   19 mg/dL
   104 mEq/L
   134 mEq/L
   24.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2120-10-27**]  03:44 PM
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
   WBC
   14.3
   12.0
   10.4
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   Plt
   497
   459
   446
   Cr
   1.6
   1.5
   1.5
   TCO2
   27
   31
   26
   28
   21
   Glucose
   74
   63
   61
   Other labs: PT / PTT / INR:21.8/33.8/2.0, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Cytology pending. Flow cytometry not sent
   yet.
   Imaging: CXR - Stable b/l effusions with CT in place. Lower lung
   volumes.  Possibly some pulmonary edema. No pneumomediastinum.
   Microbiology: Nothing to date.
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p b/l
   CT.  Elevated WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.  Extubated this am.
   - Wean O2 as tolerated
   - Plan to diurese when pressure willtolerate
   - OOB to chair, IS, PT
   - Plan was for VATs pleurodesis per CT surgery, but now unclear - Dr.
   [**Last Name (STitle) 876**] will talk to Dr. [**First Name (STitle) **]
   #Hypotension
 Now resolved off sedation, BP
s not high enough to start
   home regimen
   - Hold metoprolol
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.  Dirty UA
   (pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]).  WBC improved with
   abx.
   - Cont vanc/zosyn x 8 days
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.  S/pleural protein ratio>0.5
   (exudate)
   - Appreciate thoracic surgery consult
   - S/p b/l pigtail catheter placement
   - F/u fluid chemistries, cultures (including AFB), cytology, flow
   cytometry
   - Would plan for VATs with pleurodesis later in week.  Would appreciate
   pleural biopsy at same time.
   # Pneumomediastinum: Unclear etiology.  Will f/u CXR formal read today.
   No hemodynamic compromise.
   # ARF: Baseline 0.7.  Continue to follow.
   #Atrial fibrillation
   - Hold coumadin, aspirin, BB
   - Cont amiodarone
   ICU Care
   Nutrition:  Advance as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2120-10-31 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Flow cytometry sent
   -Repeat sample from pigtail neeeded for regular cytometry
   -Overnight CVP and BP too borederline for attampt at diuresis
   -Per surgery, chance of talc pleuredesis later this week vs early next
   week; no plan for VATS
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Piperacillin - [**2120-10-31**] 04:03 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-10-31**] 05:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-31**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.4
   HR: 77 (71 - 82) bpm
   BP: 94/51(62) {91/42(55) - 123/62(79)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (5 - 19)mmHg
   Total In:
                                                                  1,795 mL
                                                                    169 mL
   PO:
                                                                    755 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    435 mL
   Urine:
                                                                    530 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
                                                                    360 mL
   Balance:
                                                                    525 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   467 K/uL
   8.8 g/dL
   76 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   18 mg/dL
   104 mEq/L
   136 mEq/L
   28.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
   WBC
   14.3
   12.0
   10.4
   11.9
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   28.2
   Plt
   497
   459
   446
   467
   Cr
   1.6
   1.5
   1.5
   1.5
   TCO2
   31
   26
   28
   21
   Glucose
   74
   63
   61
   76
   Other labs: PT / PTT / INR:23.6/35.8/2.2, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 PLEURAL EFFUSION, ACUTE
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p b/l
   CT.  Elevated WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.  Extubated [**2120-10-30**]
   - Wean O2 as tolerated
   - Plan to diurese when pressure will ltolerate
   - OOB to chair, IS, PT
   - Plan was for VATs/pleurodesis per CT surgery, but now unclear - Dr.
   [**Last Name (STitle) 876**] will talk to Dr. [**First Name (STitle) **] & possibly Dr. [**Last Name (STitle) 1038**]
   #Hypotension
 Now resolved off sedation.
   - Holding metoprolol and diuresis given borderline BPs
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.  Dirty UA
   (pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]).  WBC improved with
   abx.
   - Cont vanc/zosyn x 8 days
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.  S/pleural protein ratio>0.5
   (exudate)
   - Appreciate thoracic surgery consult
   - F/u fluid chemistries, cultures (including AFB), and cytology.
   - if VATs with pleurodesis later in week,  would appreciate pleural
   biopsy at same time.
   - flow cytometry sent; may need to send more for conventional cytometry
   as prior sample only 5cc
   .
   #Pericardial effusion
 ECHO yesterday shows decreased effusion
   - cont to monitor
   #Acute on chronic iron-deficiency anemia - Hct stable
   -monitor Hct daily, transfuse for Hct<21%
   -guaiac stools
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially,
   Cr stable at 1.5
   -trend Cr daily
   #Atrial fibrillation
   -hold coumadin, aspirin  for now
   -cont amiodarone
   #CAD
   -hold ASA, BB in the acute setting
   - will consider restarting BB if blood pressures tolerate
   #Hypothyroidism
   -cont levoxyl
   # FEN: NPO for now, will give PO trial later today
   # PPX: PPI, pneumoboot
   # ACCESS: PIV x 2
   # CODE: FULL (confirmed with patient and family [**10-26**])
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-10-31 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident  for key portions of the services provided.  I agree with his
   / her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CVP/BP borderline
   - Surgery mentioned possible talc pleurodesis
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-28**] 01:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Piperacillin - [**2120-10-31**] 04:03 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-10-31**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-10-31**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 80 (71 - 98) bpm
   BP: 97/48(59) {91/42(55) - 126/64(80)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 11 (5 - 19)mmHg
   Total In:
                                                                  1,795 mL
                                                                    357 mL
   PO:
                                                                    755 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    590 mL
   Urine:
                                                                    530 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
                                                                    360 mL
   Balance:
                                                                    525 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  no rashes
   Neurologic: Attentive, Responds to: verbal commands, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   467 K/uL
   76 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   18 mg/dL
   104 mEq/L
   136 mEq/L
   28.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-10-27**]  07:06 PM
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
   WBC
   14.3
   12.0
   10.4
   11.9
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   28.2
   Plt
   497
   459
   446
   467
   Cr
   1.6
   1.5
   1.5
   1.5
   TCO2
   31
   26
   28
   21
   Glucose
   74
   63
   61
   76
   Other labs: PT / PTT / INR:23.6/35.8/2.2, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Cytology negative.
   Imaging: CXR - Stable since yesterday.
   Microbiology: All cultures negative.
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p b/l
   CT.  Elevated WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.  Extubated [**10-29**].
   - Wean O2 as tolerated
   - Plan to diurese when pressure will tolerate
   - OOB to chair, IS, PT
   - Plan was for VATs pleurodesis per CT surgery, but now unclear
 will
   clarify plan
   - Now with L PTX
 has CT on that side.  Will inform CT surgery and
   follow with serial CXR.
   - Continue abx for possible PNA
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.  S/pleural protein ratio>0.5
   (exudate)
   - Appreciate thoracic surgery consult
   - S/p b/l pigtail catheter placement
   - Pleural cytology performed during this hospitalization negative, but
   likely low yield due to small volume sample (5-15cc) Re-send large
   volume of pleural fluid for cytology. Pleural fluid cultures and flow
   cytometry pending.
   - Would plan for VATs with pleurodesis at some point.  If no
   explanation for effusions found by that point, would also appreciate
   pleural biopsy at same time.
   - D/W IP clogged R pigtail.
   #Hypotension
 Now resolved off sedation.
   - Start metoprolol when BP allows.
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.  Dirty UA
   (pan-[**Last Name (un) 46**] klebsiella & pseudomonas from UCx [**10-12**]).  WBC improved with
   abx.
   - Cont vanc/zosyn x 8 days
   # ARF: Baseline 0.7.  Continue to follow.
   #Atrial fibrillation
   - Hold coumadin, aspirin, BB
   - Cont amiodarone
   ICU Care
   Nutrition: Regular diet as tolerated.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Consider transfer to floor this afternoon
   Total time spent: 25 minutes

2120-11-01 06:42:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   Thoracic surgery would consider VATS/pleurodesis once culture data
   comes back negative
   -moderate L apical ptx -thoracics aware
   -R pigtail catheter clogged - IP removed it
   -Gave additional dose of vanc (dosed by level)
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-1**] 03:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-10-31**] 12:12 PM
   Hydromorphone (Dilaudid) - [**2120-11-1**] 03:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-1**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 81 (80 - 98) bpm
   BP: 107/61(73) {76/42(52) - 137/68(84)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  1,570 mL
                                                                    167 mL
   PO:
                                                                    830 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    145 mL
   Urine:
                                                                  1,290 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    -85 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   465 K/uL
   8.9 g/dL
   80 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
   WBC
   14.3
   12.0
   10.4
   11.9
   12.4
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   28.2
   28.0
   Plt
   497
   459
   446
   467
   465
   Cr
   1.6
   1.5
   1.5
   1.5
   1.5
   TCO2
   26
   28
   21
   Glucose
   74
   63
   61
   76
   80
   Other labs: PT / PTT / INR:24.8/34.2/2.4, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 PLEURAL EFFUSION, ACUTE
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p
   left chest tube and right pigtail catheter placement..  Patient was
   initially intubated, extubated on [**2120-10-30**], now on nasal cannula.
   - Wean O2 as tolerated
   - Plan to diurese today as blood pressure improve
   - OOB to chair, PT
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative, Cytology x 2 on this
   admission also negative.  However only 5cc sent for first cytology and
   15cc sent on 2^nd cytology.  Will send large volume for cytology
   today.  Pleural fluid send for flow cytometry yesterday..  S/pleural
   protein ratio>0.5 (exudate)
   - Appreciate thoracic surgery consult
   - F/u fluid chemistries, cultures (including AFB), and cytology.
   - if VATs with pleurodesis later in week,  would appreciate pleural
   biopsy at same time.
   #Hypotension
 Now resolved off sedation.
   - Holding metoprolol  given borderline BPs
   - will start diuresis today
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.
   - Cont vanc/zosyn x 8 days
   - check Vanco level today, we are dosing Vanco per level
   #Pericardial effusion
 ECHO shows decreased effusion
   - cont to monitor
   #Acute on chronic iron-deficiency anemia - Hct stable
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially,
   Cr stable at 1.5
   -trend Cr daily
   #Atrial fibrillation
   -hold coumadin, aspirin
   -cont amiodarone
   #CAD
   -hold ASA, BB in the acute setting
   - will consider restarting BB if blood pressures tolerate
   #Hypothyroidism
   -cont levoxyl
   # FEN: Cardiac diet
   # PPX: PPI, pneumoboot
   # ACCESS: PIV x 2
   # CODE: FULL (confirmed with patient and family [**10-26**])
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   # DISPO: ICU, if tolerates diuresis will call out later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-01 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Thoracics aware of L PTX
   - R pigtail removed by IP given clogged and though to no longer be
   necessary
   - Vanc redosed
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-10-30**] 04:07 AM
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-1**] 03:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-10-31**] 12:12 PM
   Hydromorphone (Dilaudid) - [**2120-11-1**] 09:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-1**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 86 (80 - 90) bpm
   BP: 109/61(73) {76/42(52) - 137/68(85)} mmHg
   RR: 23 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,570 mL
                                                                    453 mL
   PO:
                                                                    830 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    370 mL
   Urine:
                                                                  1,290 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    -85 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   465 K/uL
   80 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2120-10-27**]  09:58 PM
                             [**2120-10-28**]  03:30 AM
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
   WBC
   14.3
   12.0
   10.4
   11.9
   12.4
   Hct
   21.0
   20.6
   25.3
   23.8
   24.8
   28.2
   28.0
   Plt
   497
   459
   446
   467
   465
   Cr
   1.6
   1.5
   1.5
   1.5
   1.5
   TCO2
   26
   28
   21
   Glucose
   74
   63
   61
   76
   80
   Other labs: PT / PTT / INR:24.8/34.2/2.4, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR
 worsening R effusion , b/l pulmonary edema, L PTX
   Microbiology: NGTD on all cultures.
   Assessment and Plan
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p b/l
   CT, now R pigtail removed with reaccumulation of effusion.  Elevated
   WBC count and fever could indicate PNA obscured by
   effusions/atelectasis, and now improving with abx.  Extubated [**10-29**].
   - Wean O2 as tolerated
   - Plan to diurese today
   - OOB to chair, IS, PT
   - Now with L PTX
 has CT on that side.  CT surgery aware and
   recommending pigtail for PTX. IP aware.
   - Continue vanc/zosyn for possible PNA
 Day [**6-3**]; vanc level today
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative.  S/pleural protein ratio>0.5
   (exudate)
   - Appreciate thoracic surgery consult
   - Pleural cytology performed during this hospitalization negative, but
   likely low yield due to small volume sample (5-15cc). Have re-sent
   large volume of pleural fluid for cytology. Pleural fluid cultures and
   flow cytometry pending.
   - Plan was for VATs pleurodesis if culture data remains negative per CT
   surgery.  If no explanation for effusions found by that point, would
   also appreciate pleural biopsy at same time.
   - Plan to start prednisone of 60mg daily for possible dressler
   syndrome.
   # ARF: Baseline 0.7.  Continue to follow.
   #Atrial fibrillation
   - Hold coumadin, aspirin, BB
   - Cont amiodarone
   ICU Care
   Nutrition: Full diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 23 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of the services provided. I agree with Dr. [**Last Name (STitle) 2956**]
s note,
   including assessment and plan. I would add: 85 yo female with afib, CAD
   s/p PCI, remote hx of breast cancer, recent pericardial and pleural
   effusions , so far with unclear etiology, admitted with acute
   respiratory failure from re-accumulated pleural effusions +/- PNA, now
   extubated.  Over past day R pigtail clotted and removed, CXR
s show
   persistent left PTX.  Seen by thoracics earlier when she was feeling
   better, decision was to intervene once coagulopathy was further
   corrected. Of concern is that PTX has enlarged on most recent film. CT
   now placed to suction, thoracics notified and will follow up with them.
   Pt is critically ill. Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2120-11-1**] 17:36 ------

2120-11-02 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started Diuresis with Lasix, responded well to 40mg IV
   Vanco level checked > 21, so dose held
   +apical PTX on left lung worsening on CXR, IP to place DART this
   morning
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-2**] 04:17 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-11-2**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-2**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 81 (77 - 89) bpm
   BP: 115/59(73) {93/43(56) - 131/68(85)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                    961 mL
                                                                    544 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    540 mL
                                                                    175 mL
   Blood products:
                                                                    181 mL
                                                                    369 mL
   Total out:
                                                                  2,900 mL
                                                                    420 mL
   Urine:
                                                                  2,690 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,939 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   391 K/uL
   8.1 g/dL
   128 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.8 mEq/L
   18 mg/dL
   101 mEq/L
   135 mEq/L
   25.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
                             [**2120-11-1**]  05:19 PM
                             [**2120-11-2**]  04:23 AM
   WBC
   12.0
   10.4
   11.9
   12.4
   10.3
   Hct
   25.3
   23.8
   24.8
   28.2
   28.0
   25.4
   Plt
   459
   446
   467
   465
   391
   Cr
   1.5
   1.5
   1.5
   1.5
   1.6
   1.5
   TCO2
   26
   28
   21
   Glucose
   63
   61
   76
   80
   94
   128
   Other labs: PT / PTT / INR:17.0/31.7/1.5, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 PLEURAL EFFUSION, ACUTE
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions
 s/p
   left chest tube and right pigtail catheter placement..  Patient was
   initially intubated, extubated on [**2120-10-30**], now on face tent with nasal
   cannula.  Right pig tail clogged yesterday and was pulled.  CXR shows
   left apical PTX.  Patient with worening chest pain this afternoon.  ECG
   with no acute changes, CXR showed worsening of left apical PTX from
   this morning.  [**Date Range **] aware, plan is for IR guided catheter
   placement (DART) for treatment of apical thorax.
   - Place Chest tube on suction
   - contact [**Name (NI) 616**]: [**Name2 (NI) **]: worsening left PTX
   - Plan to diurese today as blood pressure improve
   - continue O2
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative, Cytology x 2 on this
   admission also negative.  However only 5cc sent for first cytology and
   15cc sent on 2^nd cytology.  Large  volume for cytology sent
   yesterday.  ..  S/pleural protein ratio>0.5 (exudate).  Pleural fluid
   cultures remain negative.
   - Appreciate thoracic surgery consult
   - Possible pleurodesis on monday
   #Hypotension
 Now resolved off sedation.
   - Holding metoprolol  given borderline BPs
   - will start diuresis today
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.
   - Cont vanc/zosyn x 8 days, Day [**6-3**]
   - Vanco level >20, holding dose today
   - redose vanco tomorrow.
   #Pericardial effusion
 ECHO shows decreased effusion
   - cont to monitor
   #Acute on chronic iron-deficiency anemia - Hct stable
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially,
   Cr stable at 1.5
   -trend Cr daily
   #Atrial fibrillation
   -hold coumadin, aspirin
   -cont amiodarone
   #CAD
   -hold ASA, BB in the acute setting
   - will consider restarting BB if blood pressures tolerate
   #Hypothyroidism
   -cont levoxyl
   # FEN: Cardiac diet
   # PPX: PPI, pneumoboot
   # ACCESS: PIV x 2
   # CODE: FULL (confirmed with patient and family [**10-26**])
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-02 16:11:00 Physician Attending Progress Note
Chief Complaint: Pleural effusion
   HPI:
   85F present with recurrent pleural effusion (L>R) of unclear etiology
   and s/p pericardial drain for tamonade. Pt now s/p intubation and
   extubation on [**10-29**]. R pigtail removed; put has L chest tube.
   24 Hour Events:
   --L PTX treated successfully with Dart.
   --Patient started on glucocorticoids for empiric treatment of
   inflammatory etiology to pleural effusion (e.g., Dressler's syndrome).
   --Cytology negative, Flow cytometry pending.
   --2L net diuresis O/N with lasix bolus x1.
                                  History obtained from Patient, Family / Friend
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-2**] 04:17 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-11-2**] 02:49 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-11-2**] 04:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 83 (75 - 89) bpm
   BP: 113/61(74) {93/47(57) - 118/66(76)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                    961 mL
                                                                    626 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    540 mL
                                                                    257 mL
   Blood products:
                                                                    181 mL
                                                                    369 mL
   Total out:
                                                                  2,900 mL
                                                                    550 mL
   Urine:
                                                                  2,690 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,939 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Anxious, No(t)
   Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema
   Head, Ears, Nose, Throat: No(t) Poor dentition, No(t) Endotracheal
   tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: No(t) Absent), (S2: No(t) Distant, No(t) Loud,
   No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion: No(t)
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : R base, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , Rhonchorous: L scattered)
   Abdominal: No(t) Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Oriented (to): a/ox3,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   8.1 g/dL
   391 K/uL
   128 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.8 mEq/L
   18 mg/dL
   101 mEq/L
   135 mEq/L
   25.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2120-10-28**]  03:52 AM
                             [**2120-10-28**]  06:44 AM
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
                             [**2120-11-1**]  05:19 PM
                             [**2120-11-2**]  04:23 AM
   WBC
   12.0
   10.4
   11.9
   12.4
   10.3
   Hct
   25.3
   23.8
   24.8
   28.2
   28.0
   25.4
   Plt
   459
   446
   467
   465
   391
   Cr
   1.5
   1.5
   1.5
   1.5
   1.6
   1.5
   TCO2
   26
   28
   21
   Glucose
   63
   61
   76
   80
   94
   128
   Other labs: PT / PTT / INR:17.0/31.7/1.5, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   #Pleural effusion / pericardial effusion
   [] In discussion to plan bedside L pleurodesis.
   [] f/u pleural effusion flow cytometry
   [] cont prednisone (empiric)
   #R hand swelling (formerly had PIV on R arm): swelling improved
   [] continue to elevate and monitor
   #HAP: cont vanc / zosyn (day 7 of 8)
   #Acute on CKD: Cr 1.5 (near baseline). Cont to monitor
   #Afib: CHADS score 4
   [] cont ASA
   [] start low-dose beta-blocker
   --defer heparin gtt [**1-29**] serosanguinous output from chest tube
   #Deconditional: Physical therapy consulted. Pt ambulated briefly
   yesterday.
   #Anxiety and pain: Ativan 0.5-1 tid PRN with continued bolus pain med
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2120-11-2**] 17:19 ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree w/Dr. [**First Name (STitle) 284**]
   note, including assessment and plan. 85 yo female with recent
   pericardial effusion s/p drain for tamponade, and recurrent pleural
   exudative effusions so far of unclear etiology. She was admitted with
   acute respitatory failure from  worsening pleural effusions (L>>>R) and
   possible PNA- has almost completed a course of abx. Following
   extubation, CXR
s have demonstrated worsening left-sided PTX despite CT
   and she underwent dart placement by IP today. Right pigtail pulled out
   several days ago after it clotted- pleural fluid accumulation has
   historically been much slower on this side and degree of fluid has been
   mostly unchanged by recent films.
   For pleural effusions, still waiting for final cytology/flow cytometry
   results to return. Started yesterday on steroids for potential
   [**Last Name (un) 9694**]
s syndrome (CRP>100). Thoracics to perform bedside pleurodesis
   once lungs adequately expanded. Her BP
s are improving and she is
   finally tolerating diuresis though she desats with movement.
   Pt is critically ill. Total time spent: 34 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2120-11-2**] 17:27 ------

2120-11-03 08:09:00 Physician Attending Progress Note
Chief Complaint: Recurrent pleural effusion L > R
   HPI: 85F p/w recurrent pleural effusion L > R (and pericardial
   effusion), now improved with L chest tubes and diuresis.
   24 Hour Events:
   Leak around new L pigtail (now resolved)
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-3**] 04:27 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-11-3**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-3**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (75 - 86) bpm
   BP: 136/73(90) {99/49(61) - 136/83(90)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    809 mL
                                                                    421 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    181 mL
   Blood products:
                                                                    369 mL
   Total out:
                                                                  1,830 mL
                                                                    840 mL
   Urine:
                                                                  1,685 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,021 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   Gen: A/Ox3, NAD
   HEENT: oro clear, no JVD
   Cor: RRR no m/r/g
   Lung: [**Month (only) 453**] BS bilat bases, bilat rhonchi. No air leak on L chest tubes,
   no leak at CT sites
   Abd: soft, NT/ND +BS
   Ext: no c/c/e. R hand swelling improved, cont stable R forearm erythema
   at wound stable.
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Skin:  intact
   Neurologic: non-focal
   Labs / Radiology
   7.9 g/dL
   420 K/uL
   129 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   22 mg/dL
   99 mEq/L
   137 mEq/L
   25.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
                             [**2120-11-1**]  05:19 PM
                             [**2120-11-2**]  04:23 AM
                             [**2120-11-2**]  05:11 PM
                             [**2120-11-3**]  03:54 AM
   WBC
   12.0
   10.4
   11.9
   12.4
   10.3
   10.6
   Hct
   25.3
   23.8
   24.8
   28.2
   28.0
   25.4
   25.4
   Plt
   459
   446
   467
   465
   391
   420
   Cr
   1.5
   1.5
   1.5
   1.5
   1.6
   1.5
   1.6
   1.7
   TCO2
   21
   Glucose
   63
   61
   76
   80
   94
   128
   197
   129
   Other labs: PT / PTT / INR:18.0/27.6/1.6, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   85F p/w recurrent pleural effusion L > R (and pericardial effusion),
   now improved with L chest tubes and diuresis.
   #Pleural effusion / pericardial effusion
   [] cont lasix bolus diuresis (goal -0.5L)
   [] continued discussion to plan bedside L pleurodesis.
   [] f/u pleural effusion flow cytometry
   [] cont prednisone (empiric) day 3
   #R hand swelling / R forearm superficial wound (formerly had PIV on R
   arm): swelling improved.
   [] continue to elevate and monitor
   [] wound c/s
   [] if worsens, re-institute abx
   #HAP: cont vanc / zosyn (day 8 of 8)
   [] d/c vanc / zosyn (s/p day 8 course)
   #Acute on CKD: Cr 1.7 (near baseline). Cont to monitor
   #Afib: CHADS score 4
   [] cont ASA
   []low-dose beta-blocker
   --defer heparin gtt [**1-29**] serosanguinous output from chest tube
   #Deconditioning: Physical therapy consulted.
   #Anxiety and pain: Ativan 0.5-1 tid PRN with continued bolus pain med
   ICU Care
   Nutrition:
   Glycemic Control: ISS
   Lines: place PIV, if placed then d/c CVC
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT: pneumoboots (heparin deferred [**1-29**] sanguinous chest tube fluid)
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  with patient and family
   Code status: Full code
   Disposition : Callout to attd covering Dr. [**Last Name (STitle) **]
   Total time spent: 30mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   We will check ESR and CRP on prednisone therapy as a marker of
   response. Timing of pleurodhesis will be critical as pleural drainage
   still too copious to be effective. She will transition off ICU in next
   24 hours.
   Patient is ill but improving
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2120-11-3**] 15:37 ------

2120-11-03 08:10:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   - Pigtail catheter placed for L apical PTX in AM
   - given two doses of lasix 20mg IV with good response
   - beta blocker restarted
   -leak around chest tube, thoracics aware
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-10-31**] 05:37 PM
   Piperacillin - [**2120-11-3**] 04:27 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2120-11-3**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-3**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (75 - 86) bpm
   BP: 136/73(90) {99/49(61) - 136/83(90)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    809 mL
                                                                    422 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    182 mL
   Blood products:
                                                                    369 mL
   Total out:
                                                                  1,830 mL
                                                                    840 mL
   Urine:
                                                                  1,685 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,021 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: 2L nc
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   420 K/uL
   7.9 g/dL
   129 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   22 mg/dL
   99 mEq/L
   137 mEq/L
   25.4 %
   10.6 K/uL
        [image002.jpg]
   [**10-28**] pleural fluid culture negative
   11/2 blood culture negative
   [**10-27**]  blood culture negative
   [**10-27**] pleural fluid negative
                             [**2120-10-28**]  11:18 AM
                             [**2120-10-29**]  04:03 AM
                             [**2120-10-29**]  09:46 AM
                             [**2120-10-30**]  03:46 AM
                             [**2120-10-31**]  03:32 AM
                             [**2120-11-1**]  03:37 AM
                             [**2120-11-1**]  05:19 PM
                             [**2120-11-2**]  04:23 AM
                             [**2120-11-2**]  05:11 PM
                             [**2120-11-3**]  03:54 AM
   WBC
   12.0
   10.4
   11.9
   12.4
   10.3
   10.6
   Hct
   25.3
   23.8
   24.8
   28.2
   28.0
   25.4
   25.4
   Plt
   459
   446
   467
   465
   391
   420
   Cr
   1.5
   1.5
   1.5
   1.5
   1.6
   1.5
   1.6
   1.7
   TCO2
   21
   Glucose
   63
   61
   76
   80
   94
   128
   197
   129
   Other labs: PT / PTT / INR:18.0/27.6/1.6, CK / CKMB /
   Troponin-T:54//0.01, Lactic Acid:0.5 mmol/L, Albumin:2.1 g/dL, LDH:198
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTHERMIA
 PLEURAL EFFUSION, ACUTE
   85F with CAD s/p PCI, AFib on coumadin, breast CA s/p radical
   mastectomy, recent hospitalization for cardiac tamponade s/p
   pericardiocentesis and left-sided pleural effusion s/p thoracentesis
   readmitted with hypotension, hypoxemia, and leukocytosis in the setting
   of recurrent pleural and pericardial effusions.
   #Hypoxemic respiratory failure
 Likely [**1-29**] pleural effusions and
   pulmonary edema
 s/p left chest tube and right pigtail catheter
   placement (subsequently cltted and removed). CXR shows left apical PTX
   s/p pigtail catheter placement
   - Chest tube on suction
   - plan to diurese today with goal out 2L as blood pressure tolerates
   - continue O2, wean as tolerated
   #Pleural effusion
 Unclear etiology.  Concerning for malignancy, but
   cytology from previous admission negative, Cytology x 2 on this
   admission also negative.  However only 5cc sent for first cytology and
   15cc sent on 2^nd cytology.  Large  volume for cytology sent. FLOW
   cytometry also sent  .  S/pleural protein ratio>0.5 (exudate).  Pleural
   fluid cultures remain negative.
   - Appreciate thoracic surgery consult
   - Possible pleurodesis on monday
   #Leukocytosis/fevers
 Unclear etiology, but likely HAP.
   - Cont vanc/zosyn x 8 days, Day [**9-3**]
   #Pericardial effusion
 ECHO shows decreased effusion
   - cont to monitor
   #Acute on chronic iron-deficiency anemia - Hct stable
   #Acute renal failure - likely prerenal azotemia given UNa<10 initially,
   Cr 1.7, has been 1.5 for past 5 days. Likely secondary to diuresis.
   -trend Cr daily
   # Arm wound: Secondary to neosynephrine. Mild erythema, though not
   infected appearing.
   -continue to monitor
no antibiotics for now.
   -wound care consult
   #Atrial fibrillation
   - ASA
   -hold coumadin given possible pleurodesis on Monday
   -cont amiodarone
   #CAD
   - ASA, , resume Beta blocker
   #Hypothyroidism
   -cont levoxyl
   # FEN: Cardiac diet
   # PPX: PPI, pneumoboot
   # ACCESS: L IJ
will remove if able to place PIV
   # CODE: FULL (confirmed with patient and family [**10-26**])
   # CONTACT: [**First Name8 (NamePattern2) 169**] [**Known lastname 9689**] [**Telephone/Fax (1) 9690**]; [**First Name8 (NamePattern2) 9522**] [**Known lastname 9689**]
   [**Telephone/Fax (1) 9691**]
   # DISPO: call out to [**Hospital Unit Name 3031**] with Dow as attending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-10-27**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: